US08207174B2
3-(3-(1-(4,6-dimethylpyrimidin-2-yl)piperidin-4-ylamino)-2-hydroxypropoxy)phenol
Synthesis followed SP6 (iPrOH:DMSO 1:1, 120° C., 24 h), using 200 μmol 3-(oxiran-2-ylmethoxy)phenyl benzoate and 1-(4,6-dimethylpyrimidin-2-yl)piperidin-4-amine to give O-benzoylated intermediate, which was directly treated according to SP10. Title product was obtained by purification by prep. HPLC (reversed phase) and prep. TLC (1 mm silica gel, PE/CH2Cl2/MeOH 4:6:1) with 14% yield (LCMS: detected [M+1]=373.2).

reactant | 3-(oxiran-2-ylmethoxy)phenyl benzoate | 200 μmol | C(C1=CC=CC=C1)(=O)OC1=CC(=CC=C1)OCC1OC1 | C16H14O4
reactant | 1-(4,6-dimethylpyrimidin-2-yl)piperidin-4-amine | CC1=NC(=NC(=C1)C)N1CCC(CC1)N | C11H18N4
reactant | SP10 | C1=CC(=C(C(=O)C=C1)O)C2=CN=CN=C2 | C11H8N2O2
solvent | iPrOH DMSO | CC(C)O.CS(=O)C
product | 3-(3-(1-(4,6-dimethylpyrimidin-2-yl)piperidin-4-ylamino)-2-hydroxypropoxy)phenol | 14% yield | CC1=NC(=NC(=C1)C)N1CCC(CC1)NCC(COC=1C=C(C=CC1)O)O | C20H28N4O3
